US08022223B2
Following the procedure in Example 7, Step D, 1-benzoyl-3-(5-bromo-3-(4-fluorophenoxy)pyridin-2-yl)thiourea (1150 mg, 2.58 mmol) and 3M sodium hydroxide (1.7 mL, 5.1 mmol) provided 1-(5-bromo-3-(4-fluorophenoxy)pyridin-2-yl)thiourea (743 mg, 84.3% yield) as a white solid.

reactant | 1-benzoyl-3-(5-bromo-3-(4-fluorophenoxy)pyridin-2-yl)thiourea | 2.58 mmol, 1150 mg | C(C1=CC=CC=C1)(=O)NC(=S)NC1=NC=C(C=C1OC1=CC=C(C=C1)F)Br | C19H13BrFN3O2S
reactant | sodium hydroxide | 5.1 mmol, 3M, 1.7 mL | [OH-].[Na+]
product | 1-(5-bromo-3-(4-fluorophenoxy)pyridin-2-yl)thiourea | 743 mg, 84.3% yield | BrC=1C=C(C(=NC1)NC(=S)N)OC1=CC=C(C=C1)F | C12H9BrFN3OS
